US04284556
A mixture of 16.3 g. (0.0385 mole) of 3-benzyl-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine and 225 ml. of ethanol-methanol was treated with 10.7 g. (0.00462 mole) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) in methanol-ethanol with cooling. After stirring for 30 minutes at 0°, the precipitate is filtered, washed with ethyl acetate and then ether. The quinone is stirred with 200 ml. of tetrahydrofuran and 15 g. of 5 A° molecular sieves while a mixture of 10.6 g. (0.0578 mole) of benzhydrylamine in 30 ml. of tetrahydrofuran was added. The reaction mixture was used and worked up as in Example 1 to give 8.5 g. (57%) of 7,8-amino, hydroxy isomers. Separation of the isomers as described above but with recrystallization from ether gave 8-acetamido-3-benzyl-7-hydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine, m.p. 180.5°, and its 7,8-isomer, m.p. 205°-207°.

reactant | 3-benzyl-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.0385 mole | C(C1=CC=CC=C1)N1CCC2=C(C(C1)C1=CC=CC=C1)C=C(C(=C2)O)O | C23H23NO2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.00462 mole | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | benzhydrylamine | 0.0578 mole | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol ethanol | CO.C(C)O
solvent | ethanol methanol | C(C)O.CO
product | 8-acetamido-3-benzyl-7-hydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)NC=1C(=CC2=C(C(CN(CC2)CC2=CC=CC=C2)C2=CC=CC=C2)C1)O | C25H26N2O2
